US05278148
This compound was prepared, likewise in analogy to Examples 1 and 2, by reacting t-butyl [(1S,2R:S=9:1)-1-(cyclohexylmethyl)-2,3-epoxypropyl]carbamate with 1-[6-(methylamino)hexyl]-2-benzimidazolinone, cleaving off the Boc protecting group with 90% trifluoroacetic acid in methylene chloride and reacting the 1-[6-[[(2S,3S)-3-amino-2-hydroxy-4-cyclohexylbutyl]methylamino]hexyl]-2benzimidazolinone obtained with 1-(t-butoxycarbonyl)-N-(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine.

reactant | carbamate | C(N)([O-])=O
reactant | 1-[6-(methylamino)hexyl]-2-benzimidazolinone | CNCCCCCCN1C(NC2=C1C=CC=C2)=O | C14H21N3O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-[6-[[(2S,3S)-3-amino-2-hydroxy-4-cyclohexylbutyl]methylamino]hexyl]-2benzimidazolinone | N[C@H]([C@H](CN(CCCCCCN1C(NC2=C1C=CC=C2)=O)C)O)CC2CCCCC2 | C24H40N4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
